US08193164B2
Step JB2: [(R)-1-((R)-1-Benzyl-pyrrolidin-3-ylcarbamoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester
(R)-3-tert-Butoxycarbonylamino-pyrrolidine-1-carboxylic acid phenyl ester (1 eq.) and (R)-1-benzyl-pyrrolidin-3-ylamine (1 eq.) are dissolved in NMP and heated at 100° C. for 1 hour.

reactant | (R)-3-tert-Butoxycarbonylamino-pyrrolidine-1-carboxylic acid phenyl ester | 1 eq. | C1(=CC=CC=C1)OC(=O)N1C[C@@H](CC1)NC(=O)OC(C)(C)C | C16H22N2O4
reactant | (R)-1-benzyl-pyrrolidin-3-ylamine | 1 eq. | C(C1=CC=CC=C1)N1C[C@@H](CC1)N | C11H16N2
solvent | NMP | CN1CCCC1=O | C5H9NO
product | [(R)-1-((R)-1-Benzyl-pyrrolidin-3-ylcarbamoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C(N[C@H]1CN(CC1)CC1=CC=CC=C1)=O)=O | C21H32N4O3
